US05703110
20c) 2-Cyano-4'-methylbiphenyl
A mixture of 4'-methyl-2-biphenylcarbaldehyde (2.0 g) and hydroxyamine hydrochloride (1.0 g) in pyridine (10 ml) was stirred at room temperature for 15 min., followed by addition of acetic anhydride (4.1 g). The reaction mixture was stirred at 90°-100° C. for 1 hr. and concentrated to dryness. After addition of water to the residue, the precipitated crystals were collected by filtration. Recrystallization from hexane gave colorless needles (1.5 g, 79%).

reactant | 4'-methyl-2-biphenylcarbaldehyde | 2.0 g | CC1=CC=C(C=C1)C=1C(=CC=CC1)C=O | C14H12O
reactant | hydroxyamine hydrochloride | 1.0 g | Cl.ON
reactant | acetic anhydride | 4.1 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 2-Cyano-4'-methylbiphenyl | 1.5 g, 79% | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)C | C14H11N
